US04637821
Preparation of 2-methyl-4-amino-5-nitro-N-β,γ-dihydroxypropylaniline
0.2 mol (33.4 g) of 2-methyl-4-amino-5-nitroaniline and 0.1 mol (10 g) of calcium carbonate suspended in 100 ml of water are first heated on a boiling waterbath, while stirring. 0.216 mol (24 g) of 1-chloropropane-2,3-diol is added. The reaction mixture is heated on a boiling waterbath for 24 hours, 0.035 mol (3.5 g) of calcium carbonate and 0.066 mol (7.3 g) of 1-chloropropane-2,3-diol being simultaneously added seven times at intervals of three hours. The reaction mixture is filtered hot and the filtrate is diluted with 60 ml of water. After the filtrate has been cooled at 0° C. for 24 hours, the expected product, which has crystallised, is filtered off with suction. The product is washed with water and recrystallised three times from ethanol. It has a melting point of 150° C.

reactant | 2-methyl-4-amino-5-nitroaniline | 0.2 mol, 33.4 g | CC1=C(N)C=C(C(=C1)N)[N+](=O)[O-] | C7H9N3O2
reactant | calcium carbonate | 0.1 mol, 10 g | C([O-])([O-])=O.[Ca+2]
reactant | 1-chloropropane-2,3-diol | 0.216 mol, 24 g | ClCC(CO)O | C3H7ClO2
reactant | calcium carbonate | 0.035 mol, 3.5 g | C([O-])([O-])=O.[Ca+2]
reactant | 1-chloropropane-2,3-diol | 0.066 mol, 7.3 g | ClCC(CO)O | C3H7ClO2
solvent | water | 100 ml | O | H2O
product | 2-methyl-4-amino-5-nitro-N-β,γ-dihydroxypropylaniline | CC1=C(NCC(CO)O)C=C(C(=C1)N)[N+](=O)[O-] | C10H15N3O4
